US08304577B2
A solution of (S)-tert-butyl 2-((R)-(4-(benzyloxy)phenyl)((S)-2-phenylpropanamido)methyl)pyrrolidine-1-carboxylate (386 mg, 0.750 mmol) in HCl (2M in diethyl ether) (3.750 mL, 7.50 mmol) was stirred at room temperature for 4 h, then concentrated in vacuo. The residue was purified by HPLC (50% methanol/water with 0.1% TFA) to afford (S)-N-((R)-(4-(benzyloxy)phenyl)((R)-pyrrolidin-2-yl)methyl)-2-phenylpropanamide (14.7 mg, 0.034 mmol, 61.9% yield) as a slightly yellow oil. 1H NMR (400 MHz, CDCl3) δ 7.23-7.43 (m, 11H), 6.94 (d, J=8.56 Hz, 2H), 6.81 (d, J=8.81 Hz, 2H), 6.64 (d, J=5.79 Hz, 1H), 4.99 (s, 1H), 4.79 (dd, J=8.18, 3.15 Hz, 1H), 3.67 (q, J=7.22 Hz, 1H), 3.31 (td, J=7.68, 3.27 Hz, 1H), 2.72 (td, J=6.67, 2.27 Hz, 1H), 1.72-1.84 (m, 2H), 1.60 (td, J=13.28, 6.17 Hz, 2H), 1.48-1.55 (m, 4H), 1.33-1.45 (m, 1H); LRMS (ESI) m/e 415.40 [(M+H)+, calcd for C27H31N2O2 415.24].

reactant | (S)-tert-butyl 2-((R)-(4-(benzyloxy)phenyl)((S)-2-phenylpropanamido)methyl)pyrrolidine-1-carboxylate | 0.750 mmol, 386 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@H]([C@H]1N(CCC1)C(=O)OC(C)(C)C)NC([C@@H](C)C1=CC=CC=C1)=O | C32H38N2O4
reactant | HCl | 7.50 mmol, 2M, 3.750 mL | Cl | ClH
product | (S)-N-((R)-(4-(benzyloxy)phenyl)((R)-pyrrolidin-2-yl)methyl)-2-phenylpropanamide | 0.034 mmol, 14.7 mg, 61.9% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H](NC([C@@H](C)C1=CC=CC=C1)=O)[C@@H]1NCCC1 | C27H30N2O2
